US08003800B2
To a solution of 2-(4-allyloxy-3,5-dimethyl-phenyl)-5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazole (181 mg crude, 0.4 mmol) in a mixture of acetone and water (15:1.5 mL) are added N-methylmorpholine-N-oxide (250 mg, 1.85 mmol) and, subsequently, 2.5% OsO4 in tert.-butanol (0.1 mL). The mixture is stirred at rt for 36 h. The mixture is quenched into diethyl ether (75 mL) and washed with 1M aq. NaOH (50 mL), 1M aq. HCl (30 mL) and brine (20 mL). The organic phase is dried (Na2SO4), filtered and evaporated. The residue is purified by TLC (SiO2, EA-heptane) to give 118 mg of 3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol as a white powder; LC-MS: tR=1.00 min, [M+1]+=417.28; 1H NMR (D6-DMSO): δ, 7.70 (s, 2 H) 7.51 (s, 1 H), 4.96 (d, J=5.0 Hz, 1 H), 4.63 (t, J=5.6 Hz, 1 H), 3.68-3.89 (m, 3 H), 3.47 (t, J=5.6 Hz, 2 H), 2.51 (s, 3 H), 2.45 (m, 2 H), 2.33 (s, 6 H), 1.85 (m, 1 H), 0.90 (d, J=6.7 Hz, 6 H).

reactant | 2-(4-allyloxy-3,5-dimethyl-phenyl)-5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazole | 0.4 mmol, 181 mg | C(C=C)OC1=C(C=C(C=C1C)C=1OC(=NN1)C=1SC=C(C1C)CC(C)C)C | C22H26N2O2S
reactant | N-methylmorpholine-N-oxide | 1.85 mmol, 250 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tert.-butanol | 0.1 mL | C(C)(C)(C)O | C4H10O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 1.5 mL | O | H2O
catalyst | OsO4 | O=[Os](=O)(=O)=O
product | 3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol | 118 mg | C(C(C)C)C=1C(=C(SC1)C1=NN=C(O1)C1=CC(=C(OCC(CO)O)C(=C1)C)C)C | C22H28N2O4S
